2119-04-04 09:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2119-4-3**] 04:20 PM
 INVASIVE VENTILATION - START [**2119-4-3**] 05:11 PM
 MULTI LUMEN - START [**2119-4-3**] 06:21 PM
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-4-3**] 08:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-4**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 84 (77 - 131) bpm
   BP: 135/81(90) {82/44(51) - 172/88(96)} mmHg
   RR: 21 (9 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 155 kg (admission): 115 kg
             Total In:
                                                                  1,413 mL
                                                                    163 mL
   PO:
             TF:
   IVF:
                                                                  1,413 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,413 mL
                                                                    163 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 38 cmH2O
   Plateau: 25 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/44/302/20/-2
   Ve: 8.3 L/min
   PaO2 / FiO2: 755
   Physical Examination
   General Appearance: obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   respura
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Labs / Radiology
   358 K/uL
   9.3 g/dL
   115 mg/dL
   8.3 mg/dL
   20 mEq/L
   6.0 mEq/L
   79 mg/dL
   99 mEq/L
   137 mEq/L
   29.4 %
   6.3 K/uL
        [image002.jpg]
                             [**2119-4-3**]  06:40 PM
                             [**2119-4-3**]  10:00 PM
                             [**2119-4-4**]  04:23 AM
   WBC
   8.2
   6.3
   Hct
   30.4
   29.4
   Plt
   411
   358
   Cr
   8.0
   8.3
   TCO2
   25
   Glucose
   118
   122
   115
   Other labs: PT / PTT / INR:13.4/26.2/1.1, Lactic Acid:0.9 mmol/L,
   Ca++:9.8 mg/dL, Mg++:2.1 mg/dL, PO4:7.5 mg/dL
   Assessment and Plan
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   64 F with tracheomalacia, OSA, obesity, atrial fibrillation, ESRD on HD
   who presents with acute worsening of dyspnea concerning for stridor
   .
   #. Dyspnea- given her exam which reveals expiratoy wheezing over the
   trachea the concern is for recurrence of tracheal stenosis and malacia.
   Also need to consider volume overload as a cause of chronic dyspnea
   although her history is not consistent with pulmomary edema as a cause
   of acute decompensation this morning. Pulmomary embolus is less likely
   given her response to minimal treatment with nebulizers and quick
   improvement in oxygenation. Her blood gas showed a respiratory acidosis
   with CO2 at baseline. Patient was bronched and respiratory status was
   tenuous with desaturation and controlled intubation was pursued.
   - bronchoscopy shows tracheal stenosis with granulation tissue and
   malacia
   - reverse coagulopathy
   - CT trachea and chest to evaluate, follow up read
   - Cont ventilator and wean as tolerated
   - place arterial line
   - OR today for likely stent placement
   - sputum cx
   - hold off abx
   .
   #. ESRD
   - on HD MWF, due for HD today, renal aware of patient. No acute
   indication for HD today, will hold off given acute issue.
   - HD in AM prior to OR
   - continue calcium acetate
   - continue epogen
   .
   #. Atrial fibrillation- difficult to control on nodal and
   antiarrhythmics
   - reverse INR with vitamin K and FFP in AM if needed
   - hold coumadin in anticipation of procedure
   - restart diltiazem short acting for now
   - continue amiodarone
   .
   #. Anemia- [**1-30**] CKD- continue epogen and iron supplementation
   .
   #. HTN- hold anti- hypertensives in setting post intubation hypotension
   - restart ACE-I ASAP
   .
   FEN: NPO
   ..
   ACCESS:  LEFT IJ placed, PIV, A-line to be placed in OR
   .
   CODE STATUS: confirmed FULL CODE
   ..
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-4-3**] 03:30 PM
   Multi Lumen - [**2119-4-3**] 06:21 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2119-04-05 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2119-4-4**] 11:30 AM
 OR SENT - At [**2119-4-4**] 12:04 PM
 OR RECEIVED - At [**2119-4-4**] 02:25 PM
 DIALYSIS CATHETER - START [**2119-4-4**] 08:59 PM
   [**4-4**]
   Had dialysis removal of 2kg
   Had tracheal stent placed by IP which went well, extubated post
   procedure, no stridor.  Single suture holding stent in place.
   Changed to short acting po diltiazem in the morning
   D/C'd aspirin and plavix, possible surgical procedure
   Gave 250ml bolus this am for SBP persistently in 80-90's
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-4-4**] 08:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-5**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 96 (84 - 125) bpm
   BP: 108/73(79) {87/43(54) - 135/82(91)} mmHg
   RR: 17 (12 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 155 kg (admission): 115 kg
             Total In:
                                                                  1,377 mL
                                                                    268 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                    777 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -723 mL
                                                                    268 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 425 (0 - 425) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 25 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 99%
   ABG: ///28/
   Ve: 8.8 L/min
   Physical Examination
   Gen: awake and alert, hoarse
   HEENT: EOMI, anicteric sclera, MMM, LIJ intact, R tunneled HD line
   intack
   Neck: supple
   Heart: irregular, no m/r/g
   Lungs: coarse BS diffusely
   Abd: obese soft NT/ND + BS
   Ext: warm well perfused
   Labs / Radiology
   325 K/uL
   9.1 g/dL
   90 mg/dL
   5.0 mg/dL
   28 mEq/L
   3.8 mEq/L
   38 mg/dL
   97 mEq/L
   137 mEq/L
   28.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2119-4-3**]  06:40 PM
                             [**2119-4-3**]  10:00 PM
                             [**2119-4-4**]  04:23 AM
                             [**2119-4-5**]  02:58 AM
   WBC
   8.2
   6.3
   9.5
   Hct
   30.4
   29.4
   28.0
   Plt
   [**Telephone/Fax (3) 6843**]
   Cr
   8.0
   8.3
   5.0
   TCO2
   25
   Glucose
   118
   122
   115
   90
   Other labs: PT / PTT / INR:13.8/24.5/1.2, Lactic Acid:0.9 mmol/L,
   Ca++:9.8 mg/dL, Mg++:2.1 mg/dL, PO4:7.5 mg/dL
   1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   64 F with tracheomalacia, OSA, obesity, atrial fibrillation, ESRD on HD
   who presents with acute worsening of dyspnea concerning for stridor
   .
   #. Dyspnea- given her exam which reveals expiratoy wheezing over the
   trachea the concern is for recurrence of tracheal stenosis and malacia.
   Also need to consider volume overload as a cause of chronic dyspnea
   although her history is not consistent with pulmomary edema as a cause
   of acute decompensation this morning. Pulmomary embolus is less likely
   given her response to minimal treatment with nebulizers and quick
   improvement in oxygenation. Her blood gas showed a respiratory acidosis
   with CO2 at baseline. Patient was bronched and respiratory status was
   tenuous with desaturation and controlled intubation was pursued.
   -s/p rigid bronchoscopy with stent placement
   - hold asa and plavix
   - CT chest with stenosis and chronic lung changes
   - will need thoracics evaluation
   - f/u with IP re: further procedures
   - frequent suctioning
   .
   #. ESRD
   - dialyzed yesterday and today
   - continue calcium acetate
   - continue epogen
   - f/u with renal
   .
   #. Atrial fibrillation- difficult to control on nodal and
   antiarrhythmics
   - back on amiodarone and shortacting diltiazem -> titrate up as can
   tolerate
   - ok to start lovenox per IP
   - start coumadin tonight if no sgins bleeding
   .
   #. Anemia- [**1-30**] CKD- continue epogen and iron supplementation
   .
   #. HTN- hold anti- hypertensives in setting post intubation hypotension
   - restart ACE-I once BP stable
   .
   FEN: regular
   .
   ACCESS:  LEFT IJ placed, PIV, tunneled HD line
   .
   CODE STATUS: confirmed FULL CODE
   ..
   DISPOSITION: IP floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2119-4-3**] 06:21 PM
   Dialysis Catheter - [**2119-4-4**] 08:59 PM
   Prophylaxis:
   DVT: lovenox, PPI
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to floor